** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/first_order_modulator_tb3.sch
**.subckt first_order_modulator_tb3
V5 phi1 GND PULSE(0 1.2 0 1n 1n 80n 195.3125n)
V6 phi1n GND PULSE(1.2 0 0 1n 1n 80n 195.3125n)
V7 phi2 GND PULSE(0 1.2 110n 1n 1n 80n 195.3125n)
V8 phi2n GND PULSE(1.2 0 110n 1n 1n 80n 195.3125n)
V1 Vcm GND 0.6
V2 Vin GND SIN(0.6 0.1 20k)
V3 vdd GND 1.2
V9 VBN GND 0.3
V10 VBP GND 0.2
V12 Vref_neg GND 0.5
V11 Vref_pos GND 0.7
x1 Vin VBN VBP Vcm Vref_pos Vref_neg phi1 phi1n phi2 phi2n vdd GND vout first_order_modulator
**** begin user architecture code



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ




.control
save all
tran 10n 100u

* ===== Total current =====
let i_total = -v3#branch

plot i_total

meas tran I_total AVG i_total from=2e-6 to=100e-6

* ===== Power =====
let p_total = 1.2*i_total

plot p_total

meas tran P_total AVG p_total from=2e-6 to=100e-6

print I_total
print P_total
write first_order_modulator_tb3.raw
wrdata output3.txt v(vout)
.endc


**** end user architecture code
**.ends

* expanding   symbol:  first_order_modulator.sym # of pins=13
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/first_order_modulator.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/first_order_modulator.sch
.subckt first_order_modulator Vin VBN VBP Vcm Vref_pos Vref_neg phi1 phi1n phi2 phi2n VDD VSS Vout
*.ipin Vin
*.ipin VBN
*.ipin VBP
*.ipin Vcm
*.ipin Vref_pos
*.ipin Vref_neg
*.ipin phi1
*.ipin phi1n
*.ipin phi2
*.ipin phi2n
*.iopin VDD
*.iopin VSS
*.opin Vout
x1 Vin net3 phi1 phi1n phi2 phi2n VBN VBP VDD VSS net1 Vcm SC_integrator
x2 VDD net2 net1 Vcm VSS comparator
x3 net2 VDD VSS Vout buffer
x4 Vout Vref_pos Vref_neg VDD net3 VSS 1_bit_DAC
.ends


* expanding   symbol:  SC_integrator.sym # of pins=12
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/SC_integrator.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/SC_integrator.sch
.subckt SC_integrator Vin Vfb phi1 phi1n phi2 phi2n VBN VBP vdd gnd sc_int_out Vcm
*.ipin Vin
*.ipin Vfb
*.ipin phi1
*.ipin phi1n
*.ipin phi2
*.ipin phi2n
*.ipin VBN
*.ipin VBP
*.iopin vdd
*.iopin gnd
*.opin sc_int_out
*.ipin Vcm
x1 Vin phi1 phi1n Vfb phi2 phi2n Vcm net1 vdd gnd switched_capacitor
x5 net1 Vcm VBN VBP sc_int_out vdd gnd Pseudo_compensated_self_cascode_OTA
XC2 net1 sc_int_out cap_cmim w=5.0e-6 l=5.0e-6 m=25
XC1 sc_int_out gnd cap_cmim w=5.0e-6 l=5.0e-6 m=53
.ends


* expanding   symbol:  comparator.sym # of pins=5
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/comparator.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/comparator.sch
.subckt comparator VDD out inn inp VSS
*.ipin inp
*.ipin inn
*.iopin VDD
*.iopin VSS
*.opin out
XM4 net2 net1 VDD VDD sg13_lv_pmos w=1.5u l=5u ng=1 m=1
XM3 net1 net1 VDD VDD sg13_lv_pmos w=1.5u l=5u ng=1 m=1
XM1 net1 inp net3 VSS sg13_lv_nmos w=1.5u l=5u ng=1 m=1
XM2 net2 inn net3 VSS sg13_lv_nmos w=1.5u l=5u ng=1 m=1
XM7 net4 net4 VDD VDD sg13_lv_pmos w=1.5u l=5u ng=1 m=1
XM8 out net2 VDD VDD sg13_lv_pmos w=1.5u l=5u ng=1 m=1
XM6 net4 net4 VSS VSS sg13_lv_nmos w=2.5u l=5u ng=1 m=1
XM5 net3 net4 VSS VSS sg13_lv_nmos w=1.5u l=5u ng=1 m=1
XM9 out net4 VSS VSS sg13_lv_nmos w=1.5u l=5u ng=1 m=1
.ends


* expanding   symbol:  buffer.sym # of pins=4
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/buffer.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/buffer.sch
.subckt buffer vin vdd gnd vout
*.ipin vin
*.iopin vdd
*.iopin gnd
*.opin vout
x10 vdd gnd vin net1 inv_4
x8 vdd gnd net1 vout inv_4
.ends


* expanding   symbol:  1_bit_DAC.sym # of pins=6
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/1_bit_DAC.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/1_bit_DAC.sch
.subckt 1_bit_DAC Vin Vref_pos Vref_neg VDD Vout VSS
*.ipin Vin
*.ipin Vref_pos
*.ipin Vref_neg
*.iopin VDD
*.iopin VSS
*.opin Vout
x2 net1 vref_pos Vout VSS Vin VDD T_gate
x3 Vin vref_neg Vout VSS net1 VDD T_gate
x1 vdd Vin net1 VSS inverter
.ends


* expanding   symbol:  switched_capacitor.sym # of pins=10
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/switched_capacitor.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/switched_capacitor.sch
.subckt switched_capacitor Vin phi1 phi1n Vfb phi2 phi2n Vcm vout vdd gnd
*.ipin Vin
*.ipin phi1
*.ipin phi1n
*.ipin Vfb
*.ipin phi2
*.ipin phi2n
*.ipin Vcm
*.opin vout
*.iopin vdd
*.iopin gnd
x1 phi1n Vin sc_left gnd phi1 vdd T_gate
x2 phi2n Vfb sc_left gnd phi2 vdd T_gate
x3 phi1n Vcm sc_right gnd phi1 vdd T_gate
XC1 sc_left sc_right cap_cmim w=5.0e-6 l=5.0e-6 m=50
x4 phi2n sc_right vout gnd phi2 vdd T_gate
XC4 vout gnd cap_cmim w=5.0e-6 l=5.0e-6 m=100
.ends


* expanding   symbol:  Pseudo_compensated_self_cascode_OTA.sym # of pins=7
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/Pseudo_compensated_self_cascode_OTA.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/Pseudo_compensated_self_cascode_OTA.sch
.subckt Pseudo_compensated_self_cascode_OTA VN VP V_BN V_BP V_OUT VDD VSS
*.ipin VN
*.ipin VP
*.ipin V_BN
*.ipin V_BP
*.opin V_OUT
*.iopin VDD
*.iopin VSS
XM11 net1 VN net2 VSS sg13_lv_nmos w=70u l=0.8u ng=7 m=1
XM12 V_GS VN net1 V_BP sg13_lv_nmos w=38.5u l=0.3u ng=4 m=1
XM21 net4 VP net2 VSS sg13_lv_nmos w=70u l=0.8u ng=7 m=1
XM22 VB32 VP net4 V_BP sg13_lv_nmos w=38.5u l=0.3u ng=4 m=1
XM52 net2 V_BN net3 V_BN sg13_lv_nmos w=40u l=0.5u ng=4 m=1
XM51 net3 V_BN VSS VSS sg13_lv_nmos w=40u l=2.5u ng=4 m=1
XM32 V_GS V_GS VS32 VB32 sg13_lv_pmos w=48.5u l=1.24u ng=5 m=1
XM31 VS32 V_GS VDD VDD sg13_lv_pmos w=48.5u l=0.87u ng=5 m=1
XM42 VB32 V_GS VS42 V_GS sg13_lv_pmos w=48.5u l=1.24u ng=5 m=1
XM41 VS42 V_GS VDD VDD sg13_lv_pmos w=48.5u l=0.87u ng=5 m=1
XM61 net5 VB32 VDD VDD sg13_lv_pmos w=60u l=0.13u ng=6 m=1
XM62 V_OUT VB32 net5 V_BP sg13_lv_pmos w=60u l=0.13u ng=6 m=1
XM72 V_OUT V_BN net6 V_BN sg13_lv_nmos w=40u l=0.5u ng=10 m=1
XM71 net6 V_BN VSS VSS sg13_lv_nmos w=40u l=2.5u ng=4 m=1
XC3 VS42 V_OUT cap_cmim w=5.0e-6 l=5.0e-6 m=38
XC1 net4 V_OUT cap_cmim w=5.0e-6 l=5.0e-6 m=38
.ends


* expanding   symbol:  inv_4.sym # of pins=4
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/inv_4.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/inv_4.sch
.subckt inv_4 VDD VSS A Y
*.opin Y
*.ipin A
*.iopin VDD
*.iopin VSS
XMN0 Y A VSS VSS sg13_lv_nmos w=2.96u l=130.00n ng=4 m=1
XMP0 Y A VDD VDD sg13_lv_pmos w=4.48u l=130.00n ng=4 m=1
.ends


* expanding   symbol:
*+  /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/T_gate/schematic/T_gate.sym # of pins=6
** sym_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/T_gate/schematic/T_gate.sym
** sch_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/T_gate/schematic/T_gate.sch
.subckt T_gate !Control Vin Vout gnd Control vdd
*.iopin Vout
*.iopin Vin
*.iopin !Control
*.iopin Control
*.iopin gnd
*.iopin vdd
XM1 Vin Control Vout gnd sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM2 Vout !Control Vin vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
.ends


* expanding   symbol:
*+  /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/bootstrap_switch/schematic/inverter.sym # of pins=4
** sym_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/bootstrap_switch/schematic/inverter.sym
** sch_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/bootstrap_switch/schematic/inverter.sch
.subckt inverter vdd vi vo gnd
*.iopin vi
*.iopin vo
*.iopin gnd
*.iopin vdd
XM5 vo vi vdd vdd sg13_lv_pmos w=800n l=130n ng=1 m=1
XM7 vo vi gnd gnd sg13_lv_nmos w=400n l=130n ng=1 m=1
.ends

.GLOBAL GND
.end
